US07659406B2
To the resultant tributyl tin azide solution in methylene chloride, N-[(2′-cyanobiphenyl-4-yl)-methyl]-N-valeryl-(L)-valine methyl ester (28.3 g) and o-xylene (85 ml) were added and heated to reflux. The reaction mass was maintained at reflux for about 6 hours, 15 minutes and then cooled to about 30° C. 11.7 g of lithium hydroxide in water (198 ml) was added and stirred for about 10 hours at 28-30° C. Reaction completion was confirmed by thin layer chromatography and the organic and aqueous layers were separated. The aqueous layer was washed twice with toluene (2×28.3 ml). To the aqueous layer was added dichloromethane (28.3 ml) and the pH was adjusted to 6.7 using a 20% aqueous acetic acid (32 ml) solution. The aqueous layer was separated and washed with dichloromethane (28.3 ml). The aqueous layer was separated and 113.2 ml of dichloromethane was added. The pH of the reaction mass was adjusted to 5 using acetic acid (8.2 ml). The reaction mixture was stirred for 15 minutes and the organic and aqueous layers were separated. The aqueous layer was again extracted with dichloromethane (113.2 ml). The combined organic layers were washed with water (113.2 ml) and then with a solution of sodium chloride (5.7 g) in water (113.2 ml) followed by a further wash with water (113.2 ml). The organic layer was concentrated at atmospheric pressure and about 90% of the solvent was distilled off at 42° C. To the residual mass cyclohexane (56.6 ml) was added and concentrated under reduced pressure at about 55° C. to obtain a residue. The residue was cooled to 30° C.; 113.2 ml of cyclohexane was added to the residue and stirred for about 55 minutes at 28-30° C. The resultant solid was filtered and washed with cyclohexane (28.3 ml). The obtained solid was dried at about 50° C. for about 6 hours to give 22.3 g of the crude valsartan. (Purity by HPLC 98.75 area-%)

reactant | tributyl tin azide | C(CCC)[Sn](CCCC)(CCCC)N=[N+]=[N-]
reactant | N-[(2′-cyanobiphenyl-4-yl)-methyl]-N-valeryl-(L)-valine methyl ester | 28.3 g | COC([C@@H](N(C(CCCC)=O)CC1=CC=C(C=C1)C1=C(C=CC=C1)C#N)C(C)C)=O | C25H30N2O3
reactant | o-xylene | 85 ml | CC=1C=CC=CC1C | C8H10
reactant | lithium hydroxide | 11.7 g | [OH-].[Li+]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | water | 198 ml | O | H2O
solvent | cyclohexane | 113.2 ml | C1CCCCC1 | C6H12
product | valsartan | 22.3 g | CCCCC(=O)N(CC=1C=CC(=CC1)C=2C=CC=CC2C=3NN=NN3)[C@@H](C(C)C)C(=O)O | C24H29N5O3
